US07645776B2
(R)-4-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzoic acid
4 mmol of (R)-4-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzoic acid benzyl ester were dissolved in MeOH and treated with Pd/C and flushed with hydrogen (3 bar) and stirred for 30 min. The catalyst was filtered off and the solvent evaporated. After extraction from ethylacetate/water the resulting oil was purified via preperative HPLC. The corresponding alkylesters were treated with aq. 2N NaOH or LiOH in methanol at room temperature. The allylester can be cleaved using Pd(Ph3)4 as catalyst and morpholine as a nucleophile.

reactant | (R)-4-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzoic acid benzyl ester | 4 mmol | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)C1=NOC(=N1)[C@@H]1N(CCCC1)C(COC1=CC=CC=C1)=O)=O | C29H27N3O5
solvent | MeOH | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (R)-4-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzoic acid | O(C1=CC=CC=C1)CC(=O)N1[C@H](CCCC1)C1=NC(=NO1)C1=CC=C(C(=O)O)C=C1 | C22H21N3O5
